US08629137B2
Step 1: 2,6-dihydroxy-pyrimidine-4-carboxylic acid
23.00 g (127.74 mmol) orotic acid lithium salt monohydrate in 400 mL DMF were heated to 70° C. and at this temperature hydrochloric acid was added batchwise within 2 h. The reaction mixture was stirred for a further hour at 70° C. and then evaporated down in vacuo. The residue was stirred with water, suction filtered and dried at 50° C. in the CAD.

reactant | orotic acid lithium salt monohydrate | 127.74 mmol, 23.00 g | O.[Li+].C(C1=CC(=O)NC(=O)N1)(=O)[O-]
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
product | 2,6-dihydroxy-pyrimidine-4-carboxylic acid | OC1=NC(=CC(=N1)C(=O)O)O | C5H4N2O4
